US03953455
A suspension of 30.5 g (0.10 mole) of 9-oxo-fluorene-2,7-dicarbonyl chloride in 1 liter of dry chloroform (ethanol free) is stirred and treated all at once with 37.5 g (0.20 mole) of dry 3-dibutylamino-1-propanol causing a mildly exothermic reaction. The resulting mixture is stirred and refluxed for 2 hours, cooled to room temperature, filtered and the filtrate washed three times with 250 ml portions of a saturated sodium bicarbonate solution. The chloroform solution is washed with water and saturated sodium chloride solution, dried over anhydrous sodium sulfate and filtered. Most of the solvent is removed from the filtrate on the steam bath in vacuo and the remaining residue dissolved in butanone. This solution is made acid to Congo red with ethereal HCl causing the desired product to precipitate as a yellow crystalline solid. The bis [3-(dibutylamino)propyl]9-oxo-fluorene-2,7-dicarboxylate dihydrochloride so obtained is filtered, recrystallized from a butanone-methanol mixture and dried. The compound on standing in the atmosphere forms a monohydrate having a m.p. 178.5-179.5° C., λmaxH2O 276, and E 1cm1% 1,370.

reactant | 9-oxo-fluorene-2,7-dicarbonyl chloride | 0.10 mole, 30.5 g | O=C1C2=CC(=CC=C2C=2C=CC(=CC12)C(=O)Cl)C(=O)Cl | C15H6Cl2O3
reactant | 3-dibutylamino-1-propanol | 0.20 mole, 37.5 g | C(CCC)N(CCCO)CCCC | C11H25NO
solvent | chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
product | bis [3-(dibutylamino)propyl]9-oxo-fluorene-2,7-dicarboxylate dihydrochloride | Cl.Cl.C(CCC)N(CCCOC(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C(=O)OCCCN(CCCC)CCCC)=O)CCCC | InChI=1S/C37H54N2O5.2ClH/c1-5-9-19-38(20-10-6-2)23-13-25-43-36(41)29-15-17-31-32-18-16-30(28-34(32)35(40)33(31)27-29)37(42)44-26-14-24-39(21-11-7-3)22-12-8-4;;/h15-18,27-28H,5-14,19-26H2,1-4H3;2*1H
